US07560468B2
Preparation of 1,3-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylic acid (4-methoxyphenyl)amide
4-Methoxyphenyl isocyanate (221 mg, 1.49 mmol) was added to a solution of 1,3-di-benzyl-1,4,8-triazaspiro[4,5]decan-2-one (499 mg, 1.49 mmol) in toluene (12.3 ml) with stirring under a blanket of nitrogen at RT. The reaction mixture was stirred at 115° C. for 4 h. After removal of the solvent, the desired product 11,3-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylic acid (4-methoxyphenyl)amide was obtained by means of preparative HPLC.

reactant | 4-Methoxyphenyl isocyanate | 1.49 mmol, 221 mg | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | 1,3-di-benzyl-1,4,8-triazaspiro[4,5]decan-2-one | 1.49 mmol, 499 mg | C(C1=CC=CC=C1)N1C(C(NC12CCNCC2)CC2=CC=CC=C2)=O | C21H25N3O
solvent | toluene | 12.3 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylic acid (4-methoxyphenyl)amide | COC1=CC=C(C=C1)NC(=O)N1CCC2(NC(C(N2CC2=CC=CC=C2)=O)CC2=CC=CC=C2)CC1 | C29H32N4O3
